US09085517B2
5-chloro-4-(((5-chloro-6-cyclopropylpyridin-3-yl)oxy)methyl)-2-fluorobenzoic acid
To a stirred solution of tert-butyl 5-chloro-4-(((5-chloro-6-cyclopropylpyridin-3-yl)oxy)methyl)-2-fluorobenzoate (Preparation 26, 1.24 g, 3.01 mmol) in dichloromethane (22 mL) was added TFA (10.0 mL, 0.02 mol). The mixture was stirred under nitrogen at room temperature for 18 hours. Additional TFA (2.50 mL, 32.0 mmol) was added and stirring continued for 3 hours. The reaction mixture was evaporated under reduced pressure and the resulting residue dissolved in EtOAc (25 mL) and washed with 2M aqueous solution of HCl (25 mL). The resulting solid was filtered to afford the title compound (1.4 g, crude quant.) which was used with no further purification.

reactant | tert-butyl 5-chloro-4-(((5-chloro-6-cyclopropylpyridin-3-yl)oxy)methyl)-2-fluorobenzoate | 3.01 mmol, 1.24 g | ClC=1C(=CC(=C(C(=O)OC(C)(C)C)C1)F)COC=1C=NC(=C(C1)Cl)C1CC1 | C20H20Cl2FNO3
reactant | TFA | 0.02 mol, 10.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | TFA | 32.0 mmol, 2.50 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 22 mL | ClCCl | CH2Cl2
product | 5-chloro-4-(((5-chloro-6-cyclopropylpyridin-3-yl)oxy)methyl)-2-fluorobenzoic acid | ClC=1C(=CC(=C(C(=O)O)C1)F)COC=1C=NC(=C(C1)Cl)C1CC1 | C16H12Cl2FNO3
